US05840732
Synthesis of 5-(2-chloroethylthio)imidazo[1,2-a]pyridine
Using 3.0 g (20 mmol) of 5-mercaptoimidazo[1,2-a]pyridine, 2.79 ml (20 mmol) of triethylamine and 1.66 ml (20 mmol) of 1-bromo-2-chloroethane, the same procedure as in Reference Example 1 was followed, to yield 2.29 g (54.0%, light brown oily substance) of the desired product.

reactant | 5-mercaptoimidazo[1,2-a]pyridine | 20 mmol, 3.0 g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | triethylamine | 20 mmol, 2.79 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-2-chloroethane | 20 mmol, 1.66 ml | BrCCCl | C2H4BrCl
product | 5-(2-chloroethylthio)imidazo[1,2-a]pyridine | ClCCSC1=CC=CC=2N1C=CN2 | C9H9ClN2S
